US07691877B2
4-benzylamino-3-nitro-pyridin-2-ol
4-chloro-3-nitro-2-pyridone (5 g, 28.65 mmol) was suspended in 150 mL of acetonitrile then benzylamine (3.15 mL, 28.65 mmol) was added followed by potassium carbonate (4 g, 28.65 mmol) and the mixture was stirred at 60° C. overnight. The solvent was removed in vacuo and the residue was suspended in water (200 mL). A solution of HCl 2M was added until pH˜6. The precipitate was filtered and dried in vacuo to give 4.75g of the title compound as a beige solid. A second crop from the mother liquids provided 1.4 g of the title compound.

reactant | 4-chloro-3-nitro-2-pyridone | 28.65 mmol, 5 g | ClC1=C(C(NC=C1)=O)[N+](=O)[O-] | C5H3ClN2O3
reactant | benzylamine | 28.65 mmol, 3.15 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | 28.65 mmol, 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 4-benzylamino-3-nitro-pyridin-2-ol | 4.75g | C(C1=CC=CC=C1)NC1=C(C(=NC=C1)O)[N+](=O)[O-] | C12H11N3O3
